US08895745B2
Procedure O1: N-(4-Bromo-2-nitro-phenyl)-benzene-1,3-diamine
A mixture of 4-bromo-1-fluoro-2-nitro-benzene (1.14 ml, 9.25 mmol), benzene-1,3-diamine (1.96 g, 18.1 mmol) and DIPEA (1.93 ml, 11.1 mmol) in dry NMP (5 ml) was deoxygenated by evacuate/fill N2 (×3), then stirred and heated at 120° C. under N2 for 18 hours. After cooling to RT the mixture was partitioned between EtOAc and 0.5N HCl. The organic layer was washed with H2O (×1), brine (×1) then dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica (10→40% EtOAc/petrol) to give the title compound (1.8 g) as a red solid. 1H NMR (400 MHz, DMSO-d6): 9.28 (1H, s), 8.20 (1H, d), 7.63 (1H, dd), 7.14 (1H, d), 7.07 (1H, t), 6.49 (1H, s), 6.48-6.39 (2H, m), 5.24 (2H, s).

reactant | 4-bromo-1-fluoro-2-nitro-benzene | 9.25 mmol, 1.14 ml | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | benzene-1,3-diamine | 18.1 mmol, 1.96 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | DIPEA | 11.1 mmol, 1.93 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | N-(4-Bromo-2-nitro-phenyl)-benzene-1,3-diamine | 1.8 g | BrC1=CC(=C(C=C1)NC1=CC(=CC=C1)N)[N+](=O)[O-] | C12H10BrN3O2
